15
R0000 0 0 1 1 -1E+3
R0102 1 2 1
R0301 3 1 1
R0403 4 3 1
R0504 5 4 1
R0602 6 2 1
R0705 7 5 1
R0809 8 9 1
R1011 10 11 1
R1208 12 8 1
R1310 13 10 1
R0614 6 14 1
R1206 12 6 1
R1512 15 12 1
R1315 13 15 1
R0713 7 13 1
C0901 9 1 5.86082142618579E-1
C1104 11 4 8.81627694905546E-1
C1502 15 2 1.08537480611994
C0515 5 15 3.64397675632063E-1
C0602 6 2 2.50054951354468
C1503 15 3 3.58044713872005
C0705 7 5 2.20861591886933
C0306 3 6 1.08537480611994
C0703 7 3 3.64397675632063E-1
F0900 9 0 1 0 -1E+3
F1100 11 0 4 0 -1E+3
F0200 2 0 6 0 -1E+3
F0300 3 0 15 0 -1E+3
F0500 5 0 7 0 -1E+3
F1200 12 0 8 0 -1E+3
F1300 13 0 10 0 -1E+3
V1400 14 0 1
.ac log 200 0.2 2.0 rads